US08404676B2
Intermediate 11: 4-Azepan-1-yl-3-nitrobenzoic acid
A mixture of ethyl 4-fluoro-3-nitrobenzoate (Chontech 01072; 500 mg; 2.35 mmol; 1 eq.) and hexamethyleneimine (Fluka 52660; 697.89 mg; 7.04 mmol; 3 eq.) in DMF (2 mL) was stirred at 60° C. for 4 hours. The reaction mixture was then partitioned between ethyl acetate and aq. NH4Cl. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo to give a yellow solid. The latter was taken up in THF (5 mL) and lithium hydroxide (280.86 mg; 11.73 mmol; 5 eq.) then water (5 mL) were added. The reaction mixture was stirred at room temperature for 16 hours then the solvent was evaporated and the residue was diluted with water. After acidification to pH 5 with AcOH, the resulting precipitate was filtered and dried under high vacuum to afford the title compound (534 mg, 86%) as a yellow solid.

reactant | ethyl 4-fluoro-3-nitrobenzoate | 2.35 mmol, 500 mg, 1 eq. | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | lithium hydroxide | 11.73 mmol, 280.86 mg, 5 eq. | [OH-].[Li+]
reactant | water | 5 mL | O | H2O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-Azepan-1-yl-3-nitrobenzoic acid | 534 mg, 86% | N1(CCCCCC1)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C13H16N2O4
